US07268154B2
19.2 1-(cis-4-Amino-cyclohexyl)-1H-[1,2,3]triazole-4-carboxylic acid methyl ester dihydrochloride
A solution of 1-(cis-4-tert-butoxycarbonylamino-cyclohexyl)-1H-[1,2,3]triazole-4-carboxylic acid methyl ester (2.53 g) in a mixture of 4.6 M HCl in EtOAc (25 ml) and MeOH (7.6 ml) was stirred 1 h at RT. The product precipitated and was collected by filtration. Yield: 1.36 g (58%). White powder. MS 225.0 (100, [M+H]+).

reactant | 1-(cis-4-tert-butoxycarbonylamino-cyclohexyl)-1H-[1,2,3]triazole-4-carboxylic acid methyl ester | 2.53 g | COC(=O)C=1N=NN(C1)[C@@H]1CC[C@@H](CC1)NC(=O)OC(C)(C)C | C15H24N4O4
reactant | HCl | 4.6 M | Cl | ClH
solvent | EtOAc | 25 ml | CCOC(=O)C | C4H8O2
solvent | MeOH | 7.6 ml | CO | CH4O
product | 1-(cis-4-Amino-cyclohexyl)-1H-[1,2,3]triazole-4-carboxylic acid methyl ester dihydrochloride | Cl.Cl.COC(=O)C=1N=NN(C1)[C@@H]1CC[C@@H](CC1)N | InChI=1S/C10H16N4O2.2ClH/c1-16-10(15)9-6-14(13-12-9)8-4-2-7(11)3-5-8;;/h6-8H,2-5,11H2,1H3;2*1H/t7-,8+;;
